US06458781B1
Preparation of (S)-Azepane-1-carboxylic acid {1-[4,4-bis-(4-fluoro-phenyl)-butylcarbamoyl]-2-methyl-propyl}-amide
(S2-[(Azepane-1-carbonyl)-amino]-3-methyl-butanoic acid (0.300 g, 1.23 mmol) was dissolved in dry DMF (4 mL) under nitrogen atmosphere and cooled to 0° C. in an ice-water bath. To this solution were added, in succession, N,N-diisopropylethylamine (0.647 mL, 3.71 mmol) and solid O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.470 g, 1.24 mmol). The resulting reaction mixture was stirred at that temperature for 30 minutes; solid 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride (0.369 g, 1.24 mmol) was then added. After stirring for, sequentially, 15 minutes at 0° C. and 50 minutes at ambient temperature, reaction mixture was mixed with 60 mL of diethyl ether; the resulting mixture was successively washed with saturated aqueous NaHCO3 solution (2×60 mL), brine (2×60 mL), and was dried over Na2SO4. The solution was concentrated in vacuo affording an viscous oil. The crude product was further purified by flash chromatography (60% EtOAc in hexane) to provide 0.31 g (51%) of the pure titled compound as a white foam: mp 32-50° C. APCI-MS m/z 486.3 (MH+).

reactant | N,N-diisopropylethylamine | 3.71 mmol, 0.647 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.24 mmol, 0.470 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride | 1.24 mmol, 0.369 g | Cl.FC1=CC=C(C=C1)C(CCCN)C1=CC=C(C=C1)F
reactant | diethyl ether | 60 mL | C(C)OCC | C4H10O
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (S)-Azepane-1-carboxylic acid {1-[4,4-bis-(4-fluoro-phenyl)-butylcarbamoyl]-2-methyl-propyl}-amide | 0.31 g, 51% | FC1=CC=C(C=C1)C(CCCNC(=O)[C@H](C(C)C)NC(=O)N1CCCCCC1)C1=CC=C(C=C1)F | C28H37F2N3O2
